US06583155B2
(S)-1-(1-{3-[5-Acetyl-3-(4-chloro-3-methyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-yl)-6-chloro-1,3-dihydro-benzoimidazol-2-one
(R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (31 mg, 0.10 mmol) and 6-chloro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (36 mg, 0.17 mmol) were combined in EtOH (0.3 mL) and heated to 70° C. After 18 h the mixture was allowed to cool, diluted with CH2Cl2 and purified by preparative TLC (silica, 8% MeOH/CH2Cl2) to give 7 mg (12%) of the title compound. HPLC (reverse phase conditions), tR=3.49 min. MS (electrospray): m/z calculated for C30H3535Cl2N6O3 [M++H] 597.22, found 597.20. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 9.16 (br d, J=10.1 Hz, 1H), 7.55 (br m, 1H), 7.40-7.28 (m, 2H), 7.18 (br s, 1H), 7.03 and 6.98 (A and B of ABX (with fine splittings), Jab=8.4 Hz, 2H), 4.85 and 4.74 (A and B of ABX (with fine splittings), Jab=15.7 Hz, 1H), 4.62 (s, 1H), 4.29-4.18 (m, 4H), 4.09-4.00 (m, 2H), 3.91-3.71 (m, 2H), 3.16-2.78 (m, 4H), 2.55-2.50 (m, 4H), 2.43 (s, 1.5H), 2.41 (s, 1.5H), 2.23 (m, 1H), 2.21 (s, 1.5H), 2.16 (s, 1.5H), 1.84 (br s, 2H).

reactant | (R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.10 mmol, 31 mg | ClC1=C(C=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)C[C@H]2OC2)C | C18H20ClN3O2
reactant | 6-chloro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 0.17 mmol, 36 mg | ClC=1C=CC2=C(N(C(N2)=O)C2CCNCC2)C1 | C12H14ClN3O
solvent | EtOH | 0.3 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-1-(1-{3-[5-Acetyl-3-(4-chloro-3-methyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-2-hydroxy-propyl}-piperidin-4-yl)-6-chloro-1,3-dihydro-benzoimidazol-2-one | 7 mg, 12% | C(C)(=O)N1CC2=C(CC1)N(N=C2C2=CC(=C(C=C2)Cl)C)C[C@H](CN2CCC(CC2)N2C(NC1=C2C=C(C=C1)Cl)=O)O | C30H34Cl2N6O3
